US05278326
Step A: Preparation of 6-(dodecylsulfonyl)-3-oxo-hexanoic acid ethyl ester
The title compound was prepared from 4-(dodecylsulfonyl)butanoic acid (H. Gilman, et al, J. Am Chem. Soc. 74, 4452 (1952)) (2.50 g, 0.07 mol), 1,1'carbonyldiimidazole (1.50 g, 0.09 mol), magnesium chloride (1.41 g, 0.014 mol), ethyl potassium malonate (2.12 g, 0.012 mol), and triethylamine (1.73 g, 0.017 mol) using the procedure described in Example 3, Step A.

reactant | 4-(dodecylsulfonyl)butanoic acid | 0.07 mol, 2.50 g | C(CCCCCCCCCCC)S(=O)(=O)CCCC(=O)O | C16H32O4S
reactant | 1,1'carbonyldiimidazole | 0.09 mol, 1.50 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium chloride | 0.014 mol, 1.41 g | [Cl-].[Mg+2].[Cl-]
reactant | ethyl potassium malonate | 0.012 mol, 2.12 g | C(CC(=O)O)(=O)O.C(C)[K]
reactant | triethylamine | 0.017 mol, 1.73 g | C(C)N(CC)CC | C6H15N
product | 6-(dodecylsulfonyl)-3-oxo-hexanoic acid ethyl ester | C(C)OC(CC(CCCS(=O)(=O)CCCCCCCCCCCC)=O)=O | C20H38O5S
